US07202364B2
2-Chloro-5-methyl-6-fluoroaniline (23 g, 0.14 mol) and N-bromosuccinimide (25 g, 0.14 mol) are dissolved with stirring in 200 mL of anhydrous DMF. The reaction mixture is stirred overnight and then most of the DMF is removed by rotary evaporator under high vacuum. The dark brown residue is partitioned between 1:1 Et2O/hexane (500 mL) and water (500 mL). The organic layer is washed with brine (5×250 mL), dried (MgSO4) and concentrated by rotary evaporator. The crude material is purified using flash chromatography (20% CH2Cl2/hexanes) and then further purified by bulb-to-bulb distillation (b.p. 155–165° C. at ˜20 mm of Hg) to give 2-chloro-4-bromo-5-methyl-6-fluoroaniline as a peach-colored solid which is re-crystallized from ice-cold hexanes (m.p. 67–71° C.).

reactant | 2-Chloro-5-methyl-6-fluoroaniline | 0.14 mol, 23 g | ClC1=C(N)C(=C(C=C1)C)F | C7H7ClFN
reactant | N-bromosuccinimide | 0.14 mol, 25 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | DMF | 200 mL | CN(C)C=O | C3H7NO
product | 2-chloro-4-bromo-5-methyl-6-fluoroaniline | ClC1=C(N)C(=C(C(=C1)Br)C)F | C7H6BrClFN
